US07572794B2
2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-benzamide (500 mg, 1.15 mmol) was suspended in dioxane (14 mL) and treated consecutively with DMF (5 mL), Pd2dba3 (23 mg, 0.023 mmol), Xantphos (42 mg, 0.07 mmol), cesium carbonate (454 mg, 1.38 mmol) and thiomorpholine-4-carboxylic acid amide (511 mg, 3.5 mmol). The reaction mixture was placed under a nitrogen atmosphere and heated for 4 hours at 110° C. (bath temperature). On cooling the reaction was partitioned between EtOAc and water. The organic phase was washed with brine, dried, filtered and concentrated in vacuo. The residue was purified by chromatography on Isolute® Flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 10:1) to give thiomorpholine-4-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (375 mg, 65%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.14 (1H, s), 9.20 (1H, s), 8.25 (1H, s), 8.15 (1H, d), 8.11 (1H, s), 7.95 (1H, t), 7.80 (1H, s), 7.72 (1H, d), 7.63 (1H, d), 7.23-7.33 (2H, m), 6.95 (1H, d), 6.67 (1H, t), 6.54 (1H, d), 4.44 (2H, d), 4.13 (3H, s), 3.70-3.73 (4H, m), 2.55-2.58 (4H, m); m/z (ES+) 502 [M+H]+.

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-benzamide | 1.15 mmol, 500 mg | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC=2C=CC3=CN(N=C3C2)C)C=CC=C1 | C21H18BrN5O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 1.38 mmol, 454 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiomorpholine-4-carboxylic acid amide | 3.5 mmol, 511 mg | N1(CCSCC1)C(=O)N | C5H10N2OS
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.023 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.07 mmol, 42 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | thiomorpholine-4-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 375 mg, 65% | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCSCC1 | C26H27N7O2S
